US06974822B2
Step (2): 4-[3-oxo-7-(3-phenyl-prop-1-ynyl)-2H-6-azaisoquinolin-2-ylmethyl]benzenesulfonamide
The coupling of 4-(7-bromo-3-oxo-2H-6-azaisoquinolin-2-ylmethyl)benzenesulfonamide (0.71 g, 1.81 mmol) with 3-phenyl-1-propyne (0.56 mL, 4.51 mmol) using triethylamine (0.50 mL, 3.61 mmol), CuI (0.025 g, 0.13 mmol), and Pd(Ph3P)4 (0.084 g, 0.07 mmol) in dimethylformamide is carried out as described in Example 1, Step (2). Purification is carried out on a silica gel column eluted with hexanes/ethyl acetate 3:1 to give the desired product.

reactant | 4-(7-bromo-3-oxo-2H-6-azaisoquinolin-2-ylmethyl)benzenesulfonamide | 1.81 mmol, 0.71 g | BrC=1N=CC2=CC(N(C=C2C1)CC1=CC=C(C=C1)S(=O)(=O)N)=O | C15H12BrN3O3S
reactant | 3-phenyl-1-propyne | 4.51 mmol, 0.56 mL | C1(=CC=CC=C1)CC#C | C9H8
reactant | triethylamine | 3.61 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.13 mmol, 0.025 g | [Cu]I
catalyst | Pd(Ph3P)4 | 0.07 mmol, 0.084 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[3-oxo-7-(3-phenyl-prop-1-ynyl)-2H-6-azaisoquinolin-2-ylmethyl]benzenesulfonamide | O=C1N(C=C2C=C(N=CC2=C1)C#CCC1=CC=CC=C1)CC1=CC=C(C=C1)S(=O)(=O)N | C24H19N3O3S
